US07696223B2
b) {[2,3-Dichloro-7-cyano-1-(2-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid
Prepared in analogy to that of Example 1(e) from 2,3-dichloro-7-cyano-1-(2-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 437 (M+H)+.

reactant | 2,3-dichloro-7-cyano-1-(2-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2Cl)Cl)CC2=C(C=CC=C2)F)O | C18H12Cl2FN3O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | {[2,3-Dichloro-7-cyano-1-(2-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | ClC1=C(C=2C(=C(N=C(C2O)C(=O)NCC(=O)O)C#N)N1CC1=C(C=CC=C1)F)Cl | C18H11Cl2FN4O4
